US08895596B2
Step D: 2-({[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}methyl)cyclopropanecarboxylic acid.
Ethyl 2-({[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}methyl)cyclopropanecarboxylate (0.046 g, 0.102 mmol) was dissolved in 1 mL of THF and treated with KOTMS (0.037 g, 0.288 mmol). The reaction mixture was stirred at ambient temperature overnight, and then diluted with EtOAc and washed with 2 N HCl. The acidic aqueous layer was separated and further extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated to give the title compound. LCMS: calculated for C24H18F2N2O3 420.41, observed m/e 420.9 (M+H)+ (Rt 2.21/4 min). 1H NMR (500 MHz, CD3OD): δ7.73-7.64 (m, 4H), 7.51 (d, 2H), 7.48-7.41 (m, 2H), 7.35 (m, 1H), 7.03 (d, 1H), 4.55 (dd, 1H), 4.29 (dd, 1H), 1.95 (m, 1H), 1.75 (m, 1H), 1.28 (m, 1H), 1.08 (m, 1H).

reactant | Ethyl 2-({[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}methyl)cyclopropanecarboxylate | 0.102 mmol, 0.046 g | C1(=CC=C(C=C1)C1=C(C2=C(NC(=N2)OCC2C(C2)C(=O)OCC)C=C1F)F)C1=CC=CC=C1 | C26H22F2N2O3
reactant | KOTMS | 0.288 mmol, 0.037 g | O([K])[Si](C)(C)C
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-({[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}methyl)cyclopropanecarboxylic acid | C1(=CC=C(C=C1)C1=C(C2=C(NC(=N2)OCC2C(C2)C(=O)O)C=C1F)F)C1=CC=CC=C1 | C24H18F2N2O3
